US07538121B2
N-(Isoquinolin-6-yl)-1,1′-biphenyl-4-carboxamide
Using the procedure outlined in Example 56, the title compound was prepared from 6-aminoisoquinoline (D97) (37 mg, 0.25 mmol) and 4-biphenylcarboxylic acid (75 mg, 0.38 mmol) as an off-white solid. 1H NMR (400 MHz, CDCl3) δ (ppm): 9.20 (s, 1H), 8.52 (d, 1H), 8.46 (d, 1H), 8.09 (br.s, 1H), 8.00 (m, 3H), 7.77 (d, 2H), 7.65-7.70 (m, 4H), 7.50 (t, 2H), 7.43 (t, 1H).

reactant | 6-aminoisoquinoline | 0.25 mmol, 37 mg | NC=1C=C2C=CN=CC2=CC1 | C9H8N2
reactant | 4-biphenylcarboxylic acid | 0.38 mmol, 75 mg | C1(=CC=C(C=C1)C(=O)O)C1=CC=CC=C1 | C13H10O2
product | N-(Isoquinolin-6-yl)-1,1′-biphenyl-4-carboxamide | C1=NC=CC2=CC(=CC=C12)NC(=O)C1=CC=C(C=C1)C1=CC=CC=C1 | C22H16N2O
